US06491989B1
2-Hexyloxy-5-[1,6,7-trifluoro-5-(2-fluorodecyloxy)naphthalen-2-yl]pyridine
From 2,3,5-trifluoro-6-(6-hexyloxypyridin-3-yl)naphthalen-1-ol and 2-(S)-fluorodecan-1-ol by means of the Mitsunobu reaction.

reactant | 2,3,5-trifluoro-6-(6-hexyloxypyridin-3-yl)naphthalen-1-ol | FC1=C(C2=CC=C(C(=C2C=C1F)F)C=1C=NC(=CC1)OCCCCCC)O | C21H20F3NO2
reactant | 2-(S)-fluorodecan-1-ol | F[C@H](CO)CCCCCCCC | C10H21FO
product | 2-Hexyloxy-5-[1,6,7-trifluoro-5-(2-fluorodecyloxy)naphthalen-2-yl]pyridine | C(CCCCC)OC1=NC=C(C=C1)C1=C(C2=CC(=C(C(=C2C=C1)OCC(CCCCCCCC)F)F)F)F | C31H39F4NO2
